US09084794B2
c) 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetonitrile
A solution of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (0.101 mmol) in N,N-dimethylformamide (0.5 mL) was treated with potassium carbonate (0.209 mmol) and 2-bromo-2-(4-(quinolin-7-yl)phenyl)acetonitrile (0.070 mmol). The reaction was stirred overnight at room temperature, at which point it was diluted with water (50 mL) and was extracted with three times with dichloromethane. The aqueous layer was further diluted with brine (25 mL) and was extracted twice with tetrahydrofuran. The organic layers were combined and dried over sodium sulfate, filtered and concentrated in vacuo. The resulting crude material was purified by silica gel chromatography (0-9% methanol/dichloromethane). The fractions containing the desired product were combined, concentrated in vacuo, and lyophilized from water to afford the title compound a pale yellow solid (15%). MS(ES)+ m/e 453.2 [M+H]+.

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 0.101 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | potassium carbonate | 0.209 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-2-(4-(quinolin-7-yl)phenyl)acetonitrile | 0.070 mmol | BrC(C#N)C1=CC=C(C=C1)C1=CC=C2C=CC=NC2=C1 | C17H11BrN2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetonitrile | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C#N)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C28H28N4O2
